US07601711B2
[5-Bromo-1-(2,2,2-trifluoro-ethyl)-1H-indol-2-yl]-morpholin-4-yl-methanone
To a mixture of (5-bromo-1H-indol-2-yl)-morpholin-4-yl-methanone (6.64 g, 20 mmol) in tetrahydrofuran (60 mL) was added sodium hydride (60% dispersion in oil, 979 mg, 24 mmol) in several portions. The mixture was stirred 15 min at room temperature then 2,2,2-trifluroethyl trifluoromethanesulfonate (6.16 g, 27 mmol) was added and the reaction mixture was refluxed overnight. The reaction mixture was partitioned between ethyl acetate and an aqueous solution of sodium bicarbonate. The organic layer was washed with hydrochloric acid (1N) and brine, dried over sodium sulfate, filtered and evaporated in vacuo. The crude product was purified by flash chromatography on silica gel with dichloromethane: ethyl acetate (98:2 to 94:6 v/v) as eluant, to give 4.65 g (58%) of the desired compound as an off-white solid.

reactant | (5-bromo-1H-indol-2-yl)-morpholin-4-yl-methanone | 20 mmol, 6.64 g | BrC=1C=C2C=C(NC2=CC1)C(=O)N1CCOCC1 | C13H13BrN2O2
reactant | sodium hydride | 24 mmol, 979 mg | [H-].[Na+]
reactant | 2,2,2-trifluroethyl trifluoromethanesulfonate | 27 mmol, 6.16 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | [5-Bromo-1-(2,2,2-trifluoro-ethyl)-1H-indol-2-yl]-morpholin-4-yl-methanone | 4.65 g, 58% | BrC=1C=C2C=C(N(C2=CC1)CC(F)(F)F)C(=O)N1CCOCC1 | C15H14BrF3N2O2
